US05288743
1-(4-Chlorobenzyl)-1-(4-methoxyphenyl)hydrazine hydrochloride (50 g; 190 mmol), prepared as in step 1, was dissolved in 400 mL toluene and 220 mL acetic acid. Sodium acetate (17.1 g; 210 mmol) was added followed by the addition of ethyl 5-t-butylthio-2,2-dimethyl-4-oxopentanoate (49 g; 188 mmol), prepared as in step 2. The reaction was stirred in the dark at room temperature for 4 days. The mixture was poured into water and extracted with ethyl acetate. The combined extracts were washed with water. Solid sodium bicarbonate was added to the organic extracts and the mixture was filtered. The filtrate was washed with water and brine, dried over magnesium sulfate and the solvent was removed under reduced pressure. The residue was taken up in hot ethyl acetate and filtered. The solvent was removed and the product was recrystallized from pentane to give ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-methoxyindol-2-yl]-2,2-dimethylpropionate as a fluffy white solid.

reactant | 1-(4-Chlorobenzyl)-1-(4-methoxyphenyl)hydrazine hydrochloride | 190 mmol, 50 g | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)OC)C=C1
reactant | Sodium acetate | 210 mmol, 17.1 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 5-t-butylthio-2,2-dimethyl-4-oxopentanoate | 188 mmol, 49 g | C(C)(C)(C)SCC(CC(C(=O)OCC)(C)C)=O | C13H24O3S
reactant | water | O | H2O
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 220 mL | C(C)(=O)O | C2H4O2
product | ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-methoxyindol-2-yl]-2,2-dimethylpropionate | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)SC(C)(C)C)CC(C(=O)OCC)(C)C)C=C1 | C27H34ClNO3S
